US07465726B2
A round bottom flask was charged with 4-hydroxy-1-(2-methoxy-ethyl)-1H-pyridin-2-one (5.39 mmol), DCM (15 mL) and triethylamine (1 mL, 7 mmol) and cooled to −78° C. Triflic anhydride (1 mL, 7 mmol) was added drop-wise, and after stirring for a further 20 min the cooling bath was removed and the mixture allowed to reach rt. After 1.5 h, the mixture was diluted with further DCM, washed with aqueous saturated sodium hydrogen carbonate solution, brine, dried and concentrated. Purification via flash chromatography afforded trifluoromethanesulfonic acid 1-(2-methoxy-ethyl)-2-oxo-1,2-dihydro-pyridin-4-yl ester (1.1 g) as a colourless oil. MH+ 301.98.

reactant | 4-hydroxy-1-(2-methoxy-ethyl)-1H-pyridin-2-one | 5.39 mmol | OC1=CC(N(C=C1)CCOC)=O | C8H11NO3
reactant | triethylamine | 7 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 7 mmol, 1 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 1-(2-methoxy-ethyl)-2-oxo-1,2-dihydro-pyridin-4-yl ester | 1.1 g | COCCN1C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C9H10F3NO5S
